US06787538B2
2-(4-Hydroxy-phenyl)-3-methyl-1-{4-[3-(piperidin-1-yl)-propoxy]-benzyl}-1H-indol-5-ol
A solution of 5-Benzyloxy-2-(4-benzyloxy-phenyl)-1-[4-(3-piperidin-1-yl-propoxy)-benzyl]-3methyl-1H-indole No. 165 (2.35 g) in tetrahydrofuran (25 mL) and ethanol (25 mL) was added to 2.3 g of 10% palladium on carbon Cyclohexadiene (10 mL) was added and the reaction allowed to stir at room temperature for 18 hours. The catalyst was filtered through celite and the reaction mixture was concentrated and chromatographed on silica gel using dichlomaethane/methanol (4:1) to elute the product (0.8 g) as a white foam: Mp=125-130° C., 1H NMR 9.68 (s, 1H), 8.70 (s, 1H), 7.15 (d, 2H, J=8.6 Hz), 7.05 (d, 1H, J=8.8 Hz), 6.85 (d, 2H, J=8.6 Hz), 6.80 (d, 1H, J=2.4 Hz), 6.74 (d, 4H, J=2.6 Hz), 6.57 (dd, 1H, J=8.6, 2.2 Hz), 5.09 (s, 2H), 3.88 (t, 2H, J=6.4 Hz), 3.60-3.15 (m, 2H), 2.62-2.38 (m, 4H), 2.09 (s, 3H), 1.92-1.78 (m, 2H), 1.55-1.43 (m, 4H), 1.42-1.30 (m, 2H); IR (KBr) 3400 (br), 2900, 1620, 1515 cm−1; MS eI m/z 470.

reactant | 5-Benzyloxy-2-(4-benzyloxy-phenyl)-1-[4-(3-piperidin-1-yl-propoxy)-benzyl]-3methyl-1H-indole | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C2=CC1)CC1=CC=C(C=C1)OCCCN1CCCCC1)C1=CC=C(C=C1)OCC1=CC=CC=C1)C | C44H46N2O3
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 2-(4-Hydroxy-phenyl)-3-methyl-1-{4-[3-(piperidin-1-yl)-propoxy]-benzyl}-1H-indol-5-ol | OC1=CC=C(C=C1)C=1N(C2=CC=C(C=C2C1C)O)CC1=CC=C(C=C1)OCCCN1CCCCC1 | C30H34N2O3
